US08420642B2
Preparation of acetic acid 2-(5-bromo-pyridine-2-yl amino)-thiazole-4-ylmethyl ester (“A5”)
(5-Bromo-pyridine-2-yl)-thiourea (1 mmol) is dissolved in DMF (2 ml) and acetic acid 3-chloro-2-oxo-propyl ester (1 eq.) is added and stirred 2 h at 70° C. After cooling to RT the reaction solution is poured into water and the resulting precipitate is filtered, washed with water and dried 16 h in vacuo at 40° C. “A5” is obtained as colourless powder in a yield of 82%; mp. 200.9-201.6° C.; HPLC (method C): 1.80 min; LC-MS (method A): 1.800 min, 327.95 (M+H+); 1H-NMR (DMSO-d6, 500 MHz): δ [ppm] 11.516 (s, 1H), 8.391 (d, 1H, J=2.4 Hz), 7.892 (dd, 1H, J=8.9 Hz, J=2.4 Hz), 7.020 (d, 1H, J=8.9 Hz), 6.998 (s, 1H), 5.015 (s, 2H), 2.062 (s, 3H).

reactant | (5-Bromo-pyridine-2-yl)-thiourea | 1 mmol | BrC=1C=CC(=NC1)NC(=S)N | C6H6BrN3S
reactant | acetic acid 3-chloro-2-oxo-propyl ester | 1 eq. | ClCC(COC(C)=O)=O | C5H7ClO3
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | acetic acid 2-(5-bromo-pyridine-2-yl amino)-thiazole-4-ylmethyl ester | yield of 82% | BrC=1C=CC(=NC1)NC=1SC=C(N1)COC(C)=O | C11H10BrN3O2S
